US07432270B2
(RS) 2-(Quinolin-2-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester
The title compound (0.1g) was prepared from (RS) 2-aminomethyl-piperidine-1-carboxylic acid tert butyl ester (0.5 ml) and 2-chloroquinoline (0.5 g) according to the procedure of D8.

reactant | (RS) 2-aminomethyl-piperidine-1-carboxylic acid tert butyl ester | 0.5 ml | C(C)(C)(C)OC(=O)N1C(CCCC1)CN | C11H22N2O2
reactant | 2-chloroquinoline | 0.5 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
product | (RS) 2-(Quinolin-2-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester | 0.1g | C(C)(C)(C)OC(=O)N1C(CCCC1)CNC1=NC2=CC=CC=C2C=C1 | C20H27N3O2
